US06924278B2
Triphenylphosphine (7.31 g) was added to a solution of carbon tetrabromide (4.62 g) in dichloromethane (15 ml) at 0° C. and the mixture was stirred at 0° C. for 15 minutes. A solution of (3S)-4-tert-butoxycarbonyl-3-formylmorpholine (1.5 g) in dichloromethane (15 ml) was added dropwise to the solution over 10 minutes at 0° C. and stirred for 3 hours, and the mixture was added saturated sodium hydrogen carbonate solution. The organic layer was separated and the aqueous layer was extracted with ethyl acetate three times. The combined organic layer was washed with brine, dried over magnesium sulfate, and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of ethyl acetate and n-hexane (4:6) to give (3R)-4-tert-butoxycarbonyl-3-(2,2-dibromoethenyl)morpholine as an oil.

reactant | Triphenylphosphine | 7.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 4.62 g | C(Br)(Br)(Br)Br | CBr4
reactant | (3S)-4-tert-butoxycarbonyl-3-formylmorpholine | 1.5 g | C(C)(C)(C)OC(=O)N1[C@@H](COCC1)C=O | C10H17NO4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | (3R)-4-tert-butoxycarbonyl-3-(2,2-dibromoethenyl)morpholine | C(C)(C)(C)OC(=O)N1[C@@H](COCC1)C=C(Br)Br | C11H17Br2NO3
